US05223539
N,N-dicyclopentyl-4-(3,4-dimethoxyphenoxy)benzamide
The reaction and workup were carried out in the same manner as described in Example 1 using p-bromobenzoic acid N,N-dicyclopentyl amide (1.839 g, 5.47 mmol), 3,4-dimethoxy phenol (876 mg, 5.68 mmol) and cuprous oxide (413 mg, 2.89 mmol) in 2,4,6-collidine (15 ml). The crude product was chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound as a crystalline solid that could be recrystallized from ethyl acetate and hexane, m. pt. 179.95° C. (DSC).

reactant | p-bromobenzoic acid N,N-dicyclopentyl amide | 5.47 mmol, 1.839 g | C1(CCCC1)N(C(C1=CC=C(C=C1)Br)=O)C1CCCC1 | C17H22BrNO
reactant | 3,4-dimethoxy phenol | 5.68 mmol, 876 mg | COC=1C=C(C=CC1OC)O | C8H10O3
solvent | 2,4,6-collidine | 15 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | N,N-dicyclopentyl-4-(3,4-dimethoxyphenoxy)benzamide | C1(CCCC1)N(C(C1=CC=C(C=C1)OC1=CC(=C(C=C1)OC)OC)=O)C1CCCC1 | C25H31NO4
